US08486952B2
A solution of 7-(3,4,5-trifluorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione (1.23 g, 4.34 mmol) in concentrated ammonium hydroxide (75 mL, 1926 mmol) was heated at 100° C. in a high-pressure (350 mL) vessel overnight. The reaction mixture was cooled and concentrated in vacuum to give crude 7-(3,4,5-trifluorophenyl)-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione (1.3 g, 4.61 mmol, 106% yield). LC-MS (M+H)+=283.0.

reactant | 7-(3,4,5-trifluorophenyl)-6,7-dihydrocyclopenta[e][1,3]oxazine-2,4(3H,5H)-dione | 4.34 mmol, 1.23 g | FC=1C=C(C=C(C1F)F)C1CCC=2C(NC(OC21)=O)=O | C13H8F3NO3
reactant | ammonium hydroxide | 1926 mmol, 75 mL | [OH-].[NH4+]
product | 7-(3,4,5-trifluorophenyl)-6,7-dihydro-1H-cyclopenta[d]pyrimidine-2,4(3H,5H)-dione | 4.61 mmol, 1.3 g, 106% yield | FC=1C=C(C=C(C1F)F)C1CCC2=C1NC(NC2=O)=O | C13H9F3N2O2
